US04594441
368 g of 1,6-bis-(cyclohexoxycarbonylamino)-hexane (1 mol) were dissolved in 1.5 l ethanol and heated for two hours at 230° C. in a 3 l autoclave. After cooling, the reaction mixture was separated from the excess ethanol and resultant cyclohexanol in a water jet vacuum. The reaction product was examined by high pressure liquid chromatography (HPLC). A yield of 240 g of 1,6-bis-(ethoxycarbonylamino)-hexane was produced corresponding to a yield of 92% of the theoretical yield.

reactant | 1,6-bis-(cyclohexoxycarbonylamino)-hexane | 1 mol, 368 g | C1(CCCCC1)OC(=O)NCCCCCCNC(=O)OC1CCCCC1 | C20H36N2O4
solvent | ethanol | 1.5 l | C(C)O | C2H6O
product | 1,6-bis-(ethoxycarbonylamino)-hexane | yield of 240 g, yield of 92% | C(C)OC(=O)NCCCCCCNC(=O)OCC | C12H24N2O4
